US05047554
Methyl 4-acetyl-2-thiophenecarboxylate
Methyliodide (783 mg, 5.51 mmoles) was added to a stirred suspension of 4-acetyl-2-thiophenecarboxylic acid (prepared according to Satonaka, H., Bull. Chem. Soc. Japan 56:2463 (1983)) (782 mg, 4.59 mmoles) and sodium carbonate (1.70 g, 16.08 mmoles) in 25 ml of N,N-dimethylformamide. After stirring overnight at room temperature the mixture was poured into water (125 ml), saturated with solid sodium chloride and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with brine, dried (magnesium sulfate) and concentrated in vacuo to an off-white solid (761 mg, 90%), m.p. 94°-6° C. EIMS (m/z): 184 (M+, 74%), 169 (M+ --CH3, base), 153 (M+ --CH3O, 51%); 1HNMR (DMSO-d6) delta, 8.17 (1H, d, J=1.5 Hz), 8.13 (1H, d, J=1.5 Hz), 3.88 (3H, s), 2.51 (3H, s).

reactant | Methyliodide | 5.51 mmoles, 783 mg | CI | CH3I
reactant | 4-acetyl-2-thiophenecarboxylic acid | 4.59 mmoles, 782 mg | C(C)(=O)C=1C=C(SC1)C(=O)O | C7H6O3S
reactant | sodium carbonate | 16.08 mmoles, 1.70 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | 125 ml | O | H2O
product | Methyl 4-acetyl-2-thiophenecarboxylate | C(C)(=O)C=1C=C(SC1)C(=O)OC | C8H8O3S
